US05576324
2-(N-Acetylaminomethyl)-6,7-dihydro-5-methylfuro[2,3-f]quinoline-7-one (475 mg) was suspended in methanol (4 mg), to which KOH (1.16 g) in water (1 ml) was added. The mixture was stirred at 90° C. for 11 hours. After completion of the reaction, the solvent was removed under reduced pressure, and water (50 ml) was added. The resulting mixture was made into acidic with 2N-HCl. The aqueous phase was washed with chloroform. Potassium carbonate was added thereto up to definite alkaline pH, followed by extraction with chloroform. The chloroform phase was washed with aqueous NaCl solution, and dried. After the solvent was removed under reduced pressure, 306 mg of 2-aminomethyl-6,7-dihydro-5-methylfuro[2,3-f]quinoline-7-one (76.3%) was obtained. This product was converted into a hydrochloride, and recrystallized from methanol. As a result, a hydrochloric acid salt of 2-aminomethyl-6,7-dihydro-5-methylfuro[2,3-f]quinoline-7-one was obtained as pale yellow prisms (mp.: higher than 300° C.).

reactant | 2-(N-Acetylaminomethyl)-6,7-dihydro-5-methylfuro[2,3-f]quinoline-7-one | 475 mg | C(C)(=O)NCC1=CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C15H14N2O3
reactant | KOH | 1.16 g | [OH-].[K+]
solvent | methanol | 4 mg | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 2-aminomethyl-6,7-dihydro-5-methylfuro[2,3-f]quinoline-7-one | 306 mg, 76.3% | NCC1=CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12N2O2
